US07820802B2
1,2-hydrazinedicarboxylic acid bis(2-methoxyethyl) ester (45 g, 191 mmol), pyridine (15.09 g, 191 mmol), and toluene (450 ml) were added to a 1000 ml flask, and N-bromosuccinimide (37.31 g, 210 mmol) was slowly added thereto at 20° C., followed by allowing the reaction to proceed for two hours. After the reaction, the solution was washed with water (180 mL,×2), and dehumidified with anhydrous magnesium sulfate, followed by concentration to dryness. The resulting solid was recrystallized with toluene (67.5 ml) and hexane (337.5 ml), to give azodicarboxylic acid bis(2-methoxyethyl) ester as a pale yellow crystal (39.26 g, yield: 88.0%).

reactant | 1,2-hydrazinedicarboxylic acid bis(2-methoxyethyl) ester | 191 mmol, 45 g | COCCOC(=O)NNC(=O)OCCOC | C8H16N2O6
reactant | pyridine | 191 mmol, 15.09 g | N1=CC=CC=C1 | C5H5N
reactant | N-bromosuccinimide | 210 mmol, 37.31 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | toluene | 450 ml | C1(=CC=CC=C1)C | C7H8
product | azodicarboxylic acid bis(2-methoxyethyl) ester | 39.26 g, yield: 88.0% | COCCOC(=O)N=NC(=O)OCCOC | C8H14N2O6
